### PR TITLE
[Merged by Bors] - feat(Algebra/MvPolynomial/Basic): add `MvPolynomial.support_C`

### PR DESCRIPTION
**Pull request by Hagb**
Similar with `MvPolynomial.support_monomial`, while for `MvPolynomial.C`.

---

The proof is copied from `support_monomial`. I tried to follow it (and other theorems) in this file, using `Decidable` instance argument (instead of classical) in the statement.

https://github.com/leanprover-community/mathlib4/blob/c5457e028692b75afc3adc02bf13408d0a4da371/Mathlib/Algebra/MvPolynomial/Basic.lean#L507-L515

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 1]
```diff
@@ -509,6 +509,11 @@ theorem support_monomial [h : Decidable (a = 0)] :
   rw [← Subsingleton.elim (Classical.decEq R a 0) h]
   rfl
 
+lemma support_C (c : R) [h : Decidable (c = 0)] :
+    (C (σ := σ) c).support = if c = 0 then ∅ else {0} := by
+  rw [← Subsingleton.elim (Classical.decEq R c 0) h]
+  rfl
```
Comment (j-loreaux) [inline Mathlib/Algebra/MvPolynomial/Basic.lean]:
```suggestion
    (C (σ := σ) c).support = if c = 0 then ∅ else {0} :=
  support_monomial
```

**Review by j-loreaux — COMMENTED** [review]
Please make the change then wait for CI before merging.

bors d+
